US04938790
Preparation of 2,2-Bis(2-methoxyphenyl)butane.
1,1-Bis(2-methoxyphenyl)ethene (5.6 g) was dissolved in 25 ml of tetrahydrofuran and 25 ml of a 1.3M solution of methyl lithium in ether was added dropwise with stirring. The solution became dark red and exothermed. After 2 hours, 5.0 ml of methyl iodide was added slowly with stirring. The solution again exothermed. When all of the methyl iodide had been added the starting material was found to be completely consumed and replaced by a single product by gas-liquid chromatography. About 300 ml of ether was added and the resulting solution was extracted with 100 ml of water and then 100 ml of brine, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 5.46 g (88 percent of theory) of the title compound as a pale yellow crystalline solid melting at 49-52° C. The proton and carbon NMR and infrared spectra were consistent with the assigned structure.

reactant | 1,1-Bis(2-methoxyphenyl)ethene | 5.6 g | COC1=C(C=CC=C1)C(=C)C1=C(C=CC=C1)OC | C16H16O2
reactant | methyl lithium | C[Li]
reactant | methyl iodide | 5.0 ml | CI | CH3I
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2,2-Bis(2-methoxyphenyl)butane | COC1=C(C=CC=C1)C(C)(CC)C1=C(C=CC=C1)OC | C18H22O2
